US07915250B2
1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)azetidin-3-one (25 mg, 0.056 mmol), prepared using procedures described in Example 6, was taken into DMF (0.5 mL) followed by addition of (trifluoromethyl)trimethylsilane (40 μL, 0.28 mmol) and cesium carbonate (22 mg, 0.067 mmol) and the mixture was stirred for one hour at room temperature. The mixture was partitioned with ethyl ether and water and the organic phase washed three times with additional water then brine and dried over anhydrous sodium sulfate. Filtration and concentration followed by silica gel flash chromatography of the residue using hexanes:ethyl acetate 3:2 as eluent afforded 1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-3-(trifluoromethyl)azetidin-3-ol (19.8 mg, 69% yield) as a colorless crystalline solid. 1H-NMR (400 MHz, CDCl3): 8.31-8.26 (br, 1H), 7.40 (d, 1H), 7.33 (d, 1H), 7.13-7.10 (m, 1H), 6.86-6.80 (m, 1H), 6.65-6.60 (m, 1H), 4.42 (br s, 2H), 4.18 (br s, 2H). MS (EI) for C17H11F6IN2O2: 517 (MH+).

reactant | 1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)azetidin-3-one | 0.056 mmol, 25 mg | FC=1C(=C(C=CC1F)C(=O)N1CC(C1)=O)NC1=C(C=C(C=C1)I)F | C16H10F3IN2O2
reactant | (trifluoromethyl)trimethylsilane | 0.28 mmol, 40 μL | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | cesium carbonate | 0.067 mmol, 22 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-3-(trifluoromethyl)azetidin-3-ol | 19.8 mg, 69% yield | FC=1C(=C(C=CC1F)C(=O)N1CC(C1)(O)C(F)(F)F)NC1=C(C=C(C=C1)I)F | C17H11F6IN2O2
